US05294623
1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-methoxymethylidenepiperidine
Meanwhile, 1.066 g of methoxymethyltriphenylphosphonium chloride was added to 7 ml of tetrahydrofuran, and the mixture was cooled at -10° C. The lithium diisopropylamide solution previously prepared was then added to this mixture, which was then stirred for 30 minutes at -10° C. At the end of this time, 5 ml of a tetrahydrofuran solution containing 1.01 g of 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidone (prepared as described in preparation 6) were dropped into the reaction mixture, at -10° C. The mixture was stirred for 30 minutes, allowed to stand overnight at room temperature, and then condensed by evaporation under reduced pressure. Water was added to the residue, which was then extracted with ethyl acetate. The oily substance obtained was purified by silica gel column chromatography. Elution with a 2:1 by volume mixture of ethyl acetate and hexane afforded 718 mg (yield 66%) of a yellow oily substance.

reactant | methoxymethyltriphenylphosphonium chloride | 1.066 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidone | 1.01 g | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)=O)C1=CC=C(C=C1)F | C20H21F2NO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-methoxymethylidenepiperidine | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)=COC)C1=CC=C(C=C1)F | C22H25F2NO2
